US04782142
A suspension of 15.06 g (67.83 mmol) of 5-iodo-2(1H)-pyrimidinone was refluxed in 40 ml of hexamethyldisilazane and 2 ml of chlorotrimethylsilane for 1 hour. The excess reagent was removed in vacuo to yield a yellow oil 5-iodo-2-trimethylsilyloxypyrimidine, which was dissolved with 30 ml of dry degassed triethylamine. To this solution was added 11.5 ml (81.37 mmol) of trimethylsilylacetylene, 0.32 g (2.5 mol%) of CuI and 0.48 g (1 mol %) of (O3P)2PdCl2. The reaction mixture was stirred under nitrogen, at room temperature, for 3 days and diluted with 100 ml of dry THF. The mixture was filtered under dry nitrogen; the precipitate washed several times with dry THF and the filtrate was concentrated to a residue. The latter was treated with methanol to give a white crystalline, chromatographically homogeneous material 5-(2-Trimethylsilyl)ethynyl-2(1H)-pyrimidinone (9.99 g, 76.6%). Analytically pure material could be obtained by recrystallization from methanol; mp 203°-206° C.

reactant | 5-iodo-2(1H)-pyrimidinone | 67.83 mmol, 15.06 g | IC=1C=NC(NC1)=O | C4H3IN2O
reactant | chlorotrimethylsilane | 2 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | hexamethyldisilazane | 40 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
product | 5-iodo-2-trimethylsilyloxypyrimidine | IC=1C=NC(=NC1)O[Si](C)(C)C | C7H11IN2OSi
